US07465815B2
3-(4-Isopropylphenyl)-3,4,6,7-tetramethyl-1-benzofuran-2 (3H)-one
To a solution of 3-(4-isopropylphenyl)-4,6,7-trimethyl-1-benzofuran-2 (3H)-one synthesized in Reference Example 2 (2.10 g, 7.13 mmol) in DMF (30 mL) was added sodium hydride (a 60% fluidized paraffin dispersion, 314 mg, 7.84 mmol) at 0° C., and the mixture was stirred at room temperature for 30 minutes. To the reaction solution was added methyl iodide (1.11 g, 7.84 mmol) and the mixture was stirred for at room temperature 30 minutes. Water was added to the reaction solution and the product was extracted with ethyl acetate. The combined extract was washed with water, dried over magnesium sulfate and then concentrated under reduced pressure to obtain the residue, which was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain 2.07 g (yield 94%) of the title compound as an oily matter.

reactant | 3-(4-isopropylphenyl)-4,6,7-trimethyl-1-benzofuran-2 (3H)-one | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=CC(=C2C)C)C)=O | C20H22O2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 7.84 mmol, 1.11 g | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-(4-Isopropylphenyl)-3,4,6,7-tetramethyl-1-benzofuran-2 (3H)-one | 2.07 g, yield 94% | C(C)(C)C1=CC=C(C=C1)C1(C(OC2=C1C(=CC(=C2C)C)C)=O)C | C21H24O2
